US07053099B1
c) 2-Phenoxy-6-(phenylamino)benzyl amine
The product of example 1b above, 2-phenoxy-6-(phenylamino)benzonitrile, (0.4 g, 1.4 mmol) was dissolved in dry tetrahydrofuran (20 mL) and stirred under argon in a room temperature water bath. Lithium aluminum hydride (0.28 g, 7.0 mmol) was added in portions over 10 minutes. The reaction mixture was heated to 60° C. for 1 hour. The reaction mixture was cooled to room temperature and anhydrous sodium sulfate was added followed by quenching by the addition of a freshly prepared saturated solution of anhydrous sodium sulfate. The solvent was evaporated and the residue triturated with ethyl acetate, filtered and evaporated. Flash chromatography on silica gel eluted with 0–3% methanol in methylene chloride gave the title compound as a white amorphous solid. ES (+) MS m/e=274 (M−NH3)+.

reactant | 2-phenoxy-6-(phenylamino)benzonitrile | 1.4 mmol, 0.4 g | O(C1=CC=CC=C1)C1=C(C#N)C(=CC=C1)NC1=CC=CC=C1 | C19H14N2O
reactant | Lithium aluminum hydride | 7.0 mmol, 0.28 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-Phenoxy-6-(phenylamino)benzyl amine | O(C1=CC=CC=C1)C1=C(CN)C(=CC=C1)NC1=CC=CC=C1 | C19H18N2O
